US04857527
A mixture of ethyl 2,5-dioxo-3-(3-nitrophenyl)-5-phenylpentanoate (1.5 g) and hydrazine monohydrate (0.24 g) in ethanol (30 ml) was refluxed for 5.5 hours. After evaporating the solvent in vacuo, the residue was subjected to a column chromatography on silica gel (100 ml) eluting with a mixture of benzene and ethyl acetate (50:1 V/V). The fractions containing the object compound were combined and concentrated under reduced pressure to give ethyl 1,4-dihydro-4-(3-nitrophenyl)-6-phenyl-3-pyridazinecarboxylate (0.52 g).

reactant | ethyl 2,5-dioxo-3-(3-nitrophenyl)-5-phenylpentanoate | 1.5 g | O=C(C(=O)OCC)C(CC(C1=CC=CC=C1)=O)C1=CC(=CC=C1)[N+](=O)[O-] | C19H17NO6
reactant | hydrazine monohydrate | 0.24 g | O.NN
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl 1,4-dihydro-4-(3-nitrophenyl)-6-phenyl-3-pyridazinecarboxylate | 0.52 g | [N+](=O)([O-])C=1C=C(C=CC1)C1C(=NNC(=C1)C1=CC=CC=C1)C(=O)OCC | C19H17N3O4
